US05807882
Stage D: Methyl 1,2,3,4,4a,6a-hexahydro-7,12-dioxabenz[a]anthracene-5-carboxylate
In a sealed tube, 500 mg of 2-(1-cyclohexenyl)-1,4-benzodioxin and 1.4 ml of methyl propiolate are stirred for 22 hours 30 minutes at 70° C. The regioisomers are separated by chromatography on silica gel (eluent: petroleum ether/ethyl acetate, 98:2).

reactant | 2-(1-cyclohexenyl)-1,4-benzodioxin | 500 mg | C1(=CCCCC1)C1=COC2=C(O1)C=CC=C2 | C14H14O2
reactant | methyl propiolate | 1.4 ml | C(C#C)(=O)OC | C4H4O2
product | Methyl 1,2,3,4,4a,6a-hexahydro-7,12-dioxabenz[a]anthracene-5-carboxylate | C1CCCC2C1=C1OC3=CC=CC=C3OC1C=C2C(=O)OC | C18H18O4
